US09062015B2
FS1018 Preparation of 3-[1-(6-bromopyridin-2-yl)azepan-4-ylamino]propan-1-ol
The preparation is carried out analogously to 4-[1-(6-bromopyridin-2-yl)azepan-4-ylamino]butan-1-ol starting from 127 μl (1.69 mmol) of 3-amino-1-propanol 524 mg, yellow oil, Rt.=1.59 min (method B), LCMS: 329 (M+H).

reactant | 4-[1-(6-bromopyridin-2-yl)azepan-4-ylamino]butan-1-ol | BrC1=CC=CC(=N1)N1CCC(CCC1)NCCCCO | C15H24BrN3O
reactant | 3-amino-1-propanol | 1.69 mmol, 127 μl, 524 mg | NCCCO | C3H9NO
product | 3-[1-(6-bromopyridin-2-yl)azepan-4-ylamino]propan-1-ol | BrC1=CC=CC(=N1)N1CCC(CCC1)NCCCO | C14H22BrN3O
